US06784323B2
(R)-3-(1-Benzyl-1H-indol-3-yl)-butanal (Table 3, entry 4):
Prepared according to the general procedure from crotonaldehyde (125 μL, 1.50 mmol), 1-benzyl-1H-indole (104 mg, 0.500 mmol), 2,4-dinitrobenzoic acid (21.2 mg, 0.100 mmol) and (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one (24.6 mg, 0.100 mmol) in CH2Cl2 (0.90 mL) and isopropanol (0.10 mL) at −60° C. for 41 h, at which time an additional 125 μL (1.50 mmol) of crotonaldehyde was added. The reaction was continued for an additional 70 h, at which time an additional 42 μL (0.50 mmol) of crotonaldehyde was added. The reaction was continued at this temperature for an additional 5 h, at which time the temperature was raised to −40° C. for 2 h, then −10° C. for an additional 2 h to provide, after silica gel chromatography (15:85 EtOAc/hexanes), the title compound as a colorless oil (110 mg, 80% yield, 89% ee). IR (film) 3062, 3030, 2965, 2925, 2877, 2820, 2724, 1722, 1613, 1589, 1549, 1496, 1480, 1468, 1452, 1392, 1372, 1356, 1331, 1303, 1251, 1203, 1174, 1017 cm−1; 1H NMR (300 MHz, CDCl3) δ 9.76 (dd, J=2.4, 2.4 Hz, 1H, CHO), 7.66 (dt, J=0.6, 7.5 Hz, 1H, ArH), 7.33-7.08 (m, 8H, ArH), 6.92 (s, 1H, NCH), 5.28 (s, 2H, NCH2), 3.70 (dt, J=6.9, 21 Hz, 1H, ArCH), 2.89 (ddd, J=2.4, 6.6, 16.5 Hz, 1H, CH2CO); 2.72 (ddd, J=1.8, 7.8, 15.9 Hz, 1H, CH2CO); 1.44 (d, J=6.9 Hz, 3H, CHCH3); 13C NMR (75 MHz, CDCl3) δ 202.7, 137.5, 131.9, 128.8, 127.6, 126.9, 126.8, 124.6, 122.0, 119.6, 119.3, 119.2, 110.0, 51.2, 50.1, 26.1, 21.0; HRMS (CI) exact mass calcd for (C19H19 NO) requires m/z 277.1467, found m/z 277.1464. [α]D=+3.5 (c=1.0, CHCl3). The enantiomeric ratio was determined by HPLC analysis of the alcohol, obtained by NaBH4 reduction of the aldehyde, using a Chiracel AD and AD guard column (2:98 isopropanol/hexanes, 1 mL/min); S isomer tr=26.5 min and R isomer tr=29.5 min.

reactant | crotonaldehyde | 1.50 mmol, 125 μL | C(\C=C\C)=O | C4H6O
reactant | 1-benzyl-1H-indole | 0.500 mmol, 104 mg | C(C1=CC=CC=C1)N1C=CC2=CC=CC=C12 | C15H13N
reactant | 2,4-dinitrobenzoic acid | 0.100 mmol, 21.2 mg | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O6
reactant | (2S,5S)-5-benzyl-2-tert-butyl-3-methyl-imidazolidin-4-one | 0.100 mmol, 24.6 mg | C(C1=CC=CC=C1)[C@H]1C(N([C@H](N1)C(C)(C)C)C)=O | C15H22N2O
reactant | crotonaldehyde | 1.50 mmol, 125 μL | C(\C=C\C)=O | C4H6O
reactant | crotonaldehyde | 0.50 mmol, 42 μL | C(\C=C\C)=O | C4H6O
solvent | CH2Cl2 | 0.90 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 0.10 mL | C(C)(C)O | C3H8O
product | (R)-3-(1-Benzyl-1H-indol-3-yl)-butanal | 110 mg, 80% yield | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)[C@@H](CC=O)C | C19H19NO
